US04352792
Instead of the starting materials used in Example 1, 2',4',6'-trihydroxy-2-methoxyacetophenone, bis-(4-methoxybenzoic)-anhydride and sodium 4-methoxybenzoate were used and treated in a manner similar to that of Example 1. There was obtained 5,7-dihydroxy-3,4'-dimethoxyflavone: m.p. 238°-239° C. (Yield): 40%).

reactant | 2',4',6'-trihydroxy-2-methoxyacetophenone | OC1=C(C(=CC(=C1)O)O)C(COC)=O | C9H10O5
reactant | bis-(4-methoxybenzoic)-anhydride | COC1=CC=C(C(=O)OC(C2=CC=C(C=C2)OC)=O)C=C1 | C16H14O5
reactant | sodium 4-methoxybenzoate | COC1=CC=C(C(=O)[O-])C=C1.[Na+]
product | 5,7-dihydroxy-3,4'-dimethoxyflavone | OC1=C2C(C(=C(OC2=CC(=C1)O)C1=CC=C(C=C1)OC)OC)=O | C17H14O6
